US04870095
When only the 4,5-diphenyl isomer is desired the following procedure is preferred. A mixture of 778 g (3.96 mol) deoxybenzoin, 580 mL (4.38 mol) of N,N-dimethylformamide dimethyl acetal, and 775 mL of methyl tert-butyl ether was refluxed for 3 hours. The reaction mixture was cooled on ice to 0°-5° C. The precipitated solid was collected by filtration, the filter cake washed with 250 mL of cold methyl tert-butyl ether twice and dried in vacuum chamber at 65° C. to afford 913 g (92%) of 3-(dimethylamino)-1,2-diphenyl-2-propen-1-one, mp 128°-133° C. A slurry of 913 g (3.64 mol) of 3-(dimethylamino)-1,2-diphenyl-2-propen-1-one in 3.4 L of absolute ethanol was treated with 618 g (4 mol) of ethyl hydrazinoacetate hydrochloride in one portion. The mixture was stirred at room temperature for 1 hour, filtered through diatomaceous earth, and the filtrate treated with 7 L of 50% aqueous ethanol with stirring. Cooling of the resultant solution to 0°-5° C. provided a white solid which was collected by filtration, washed with 250 mL of cold 50% ethanol twice and dried in vacuum at 40° C. to provide 970 g (87%) of ethyl 4,5-diphenyl-1H-pyrazole-1-acetate, mp 76°-80° C., containing none of the 3,4-diphenyl isomer detectable by GLC.

reactant | 3-(dimethylamino)-1,2-diphenyl-2-propen-1-one | 3.64 mol, 913 g | CN(C=C(C(=O)C1=CC=CC=C1)C1=CC=CC=C1)C | C17H17NO
reactant | ethyl hydrazinoacetate hydrochloride | 4 mol, 618 g | Cl.N(N)CC(=O)OCC
solvent | ethanol | 3.4 L | C(C)O | C2H6O
product | ethyl 4,5-diphenyl-1H-pyrazole-1-acetate | 970 g, 87% | C1(=CC=CC=C1)C=1C=NN(C1C1=CC=CC=C1)CC(=O)OCC | C19H18N2O2
